US07691882B2
2-(4-Bromo-benzyloxy)-6-methyl-pyridine
To a solution of (4-bromo-phenyl)-methanol (4.54 g, 24.3 mmol) in N,N-dimethylformamide (50 mL) was added sodium hydride (999 mg, 25 mmol, 60% in oil) under nitrogen atmosphere on an ice bath (0° C.), which was stirred for 30 minutes at room temperature. 2-Fluoro-6-methylpyridine (1.8 g, 16.2 mmol) was then added to the reaction mixture on an ice bath (0° C.), and stirred for 5 hours at room temperature. The reaction mixture was partitioned into water and ethyl acetate on the ice bath (0° C.). The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:15) to obtain the title compound (3.65 g, 81%).

reactant | (4-bromo-phenyl)-methanol | 24.3 mmol, 4.54 g | BrC1=CC=C(C=C1)CO | C7H7BrO
reactant | sodium hydride | 25 mmol, 999 mg | [H-].[Na+]
reactant | 2-Fluoro-6-methylpyridine | 16.2 mmol, 1.8 g | FC1=NC(=CC=C1)C | C6H6FN
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-(4-Bromo-benzyloxy)-6-methyl-pyridine | 3.65 g, 81% | BrC1=CC=C(COC2=NC(=CC=C2)C)C=C1 | C13H12BrNO
